US08604069B2
(A-16-1) tert-Butyl 4-(2-chloro-4-methylphenylcarbamoyl)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]butanoate
Mono-tert-butyl 3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]glutarate (245 mg) and DMF (2 mL) were mixed. After an addition of 2-chloro-4-methylphenylamine (67 mg), HOBt.H2O (87 mg) and WSC.HCl (108 mg) to the mixture, the reaction mixture was stirred at RT. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, water and brine, then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: ethyl acetate/hexane=1/4) to give the title compound (131 mg).

reactant | Mono-tert-butyl 3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]glutarate | 245 mg | C1(CC1)C=1C(=NOC1C1CC(C1)CC(C)C)C(CC(=O)OC(C)(C)C)CC(=O)[O-]
reactant | 2-chloro-4-methylphenylamine | 67 mg | ClC1=C(C=CC(=C1)C)N | C7H8ClN
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 108 mg | CCN=C=NCCCN(C)C.Cl
solvent | Water | O | H2O
solvent | H2O | 87 mg | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(2-chloro-4-methylphenylcarbamoyl)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]butanoate | 131 mg | ClC1=C(C=CC(=C1)C)NC(=O)CC(CC(=O)OC(C)(C)C)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)C | C30H41ClN2O4
